US06162826
0.402 g (10.04 mmol) of sodium hydride was introduced into a reaction vessel and 10ml of dried dimethylformanide was added thereto under nitrogen atmosphere. After the reaction temperature was lowered to 5° C., 3 g (8.37 mmol) of (1R,4aS,7aS)-7-(t-butyldimethylsilyloxymethyl)-4-hydroxymethyl-1-methoxy-1,4a,5,7a-tetrahydrocyclopenta[c]pyran which is diluted in advance in 20 ml of dried dimethylfor- mamide was slowly added dropwise thereto. After stirring for one hour, 1.36 ml (10.04 mmol) of p-methoxybenzylchloride was added to the solution, which was then stirred for 6 hours while its temperature being slowly raised to room temperature. Saturated aqueous sodium bicarbonate solution was added to stop the reaction. The reaction solution was extracted with diethylether and saturated saline solution, dried over anhydrous magnesium sulfate, filtered and concentrated. The residue was subjected to silica gel column chromatography (eluent: n-hexane/ethylacetate=8/1, v/v) to obtain 1.578 g (Yield 42.2%) of (1R,4aS,7aS)-7-(t-butyldimethylsilyloxymethyl)-1-methoxy-4-(p-methoxybenzyloxymethyl)-1,4a,5,7a-tetrahydrocyclopenta[c]pyran as a colorless oil.

reactant | sodium hydride | 10.04 mmol, 0.402 g | [H-].[Na+]
reactant | (1R,4aS,7aS)-7-(t-butyldimethylsilyloxymethyl)-4-hydroxymethyl-1-methoxy-1,4a,5,7a-tetrahydrocyclopenta[c]pyran | 8.37 mmol, 3 g | [Si](C)(C)(C(C)(C)C)OCC1=CC[C@H]2[C@@H]1[C@@H](OC=C2CO)OC | C17H30O4Si
reactant | p-methoxybenzylchloride | 10.04 mmol, 1.36 ml | COC1=CC=C(CCl)C=C1 | C8H9ClO
reactant | sodium bicarbonate | C([O-])(O)=O.[Na+]
solvent | dimethylfor- mamide | 20 ml | CN(C=O)C | C3H7NO
solvent | n-hexane ethylacetate | CCCCCC.C(C)OC(C)=O
product | (1R,4aS,7aS)-7-(t-butyldimethylsilyloxymethyl)-1-methoxy-4-(p-methoxybenzyloxymethyl)-1,4a,5,7a-tetrahydrocyclopenta[c]pyran | 1.578 g, Yield 42.2% | [Si](C)(C)(C(C)(C)C)OCC1=CC[C@H]2[C@@H]1[C@@H](OC=C2COCC2=CC=C(C=C2)OC)OC | C25H38O5Si
